US08729098B2
(8-Hydroxyquinolin-7-yl)(isoindolin-2-yl)methanone
A mixture of 8-hydroxyquinoline-7-carboxylic acid (189 mg, 1.0 mmol) and di(1H-imidazol-1-yl)methanone (162.2 mg, 1.0 mmol) in THF (10 mL) was heated to reflux for 4 h, under nitrogen. The reaction mixture was allowed to cool to RT and isoindoline (95.3 mg, 0.80 mmol) was added. The resulting mixture was stirred at RT for 3 h and then left to stand at RT overnight. The reaction mixture was then quenched with H2O and an aqueous saturated solution of sodium hydrogen carbonate, and twice extracted with DCM. The separated organics were dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by SPE-SI cartridge (2 g, DCM to DCM:MeOH 99:1) affording the title compound (123 mg, 0.42 mmol) as a light brown solid.

reactant | 8-hydroxyquinoline-7-carboxylic acid | 1.0 mmol, 189 mg | OC=1C(=CC=C2C=CC=NC12)C(=O)O | C10H7NO3
reactant | di(1H-imidazol-1-yl)methanone | 1.0 mmol, 162.2 mg | N1(C=NC=C1)C(=O)N1C=NC=C1 | C7H6N4O
reactant | isoindoline | 0.80 mmol, 95.3 mg | C1NCC2=CC=CC=C12 | C8H9N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (8-Hydroxyquinolin-7-yl)(isoindolin-2-yl)methanone | 0.42 mmol, 123 mg | OC=1C(=CC=C2C=CC=NC12)C(=O)N1CC2=CC=CC=C2C1 | C18H14N2O2
